US03988476
A solution of 4-bromo phthalic anhydride (4.15 g; 0.018 mole) in acetic anhydride (10 g) containing triethylamine (4 g) was treated at room temperature with ethyl acetoacetate (2.38 g; 0.02 mole). After 24 hrs. with stirring, crushed ice (20 g) and concentrated hydrochloric acid (10 ml) were added and the precipitated red solid filtered. Addition of a hot (70°-80° C) solution of hydrochloric acid (150 ml) in water (750 ml) to this solid resulted in decarboxylation and generation of 5-bromo indane-1,3-dione as red plates, m.p. (acetone) 152°-3° C. (Found; C, 48.04; H, 2.17; Br, 35.63; C9H5Br O2 requires C, 48.05; H, 2.24; Br, 35.52%).

reactant | 4-bromo phthalic anhydride | 0.018 mole, 4.15 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | triethylamine | 4 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetoacetate | 0.02 mole, 2.38 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetic anhydride | 10 g | C(C)(=O)OC(C)=O | C4H6O3
product | 5-bromo indane-1,3-dione | BrC=1C=C2C(CC(C2=CC1)=O)=O | C9H5BrO2
